US07064215B2
A 0.25 M aqueous solution of NaNO2 (1.0 equivalent) was brought to a pH of 2.5 by the addition of dilute HCl. Dioxane was added to the solution (10% by volume). The flask was protected from light with aluminum foil and 5-chloroindole (1.0 equivalent) was added slowly. The solution was stirred vigorously for 2 hours. The solution was then extracted with three portions of ethyl acetate. The organic layers were combined, washed with water, dried over MgSO4, filtered, and concentrated. The product was purified by flash chromatography (ethyl acetate:hexane, 1:1, v/v) yielding 5-chloro-1H-indazole-3-carbaldehyde as a purple solid. LC/MS (m/z) 181.3 (MH+), Rt 2.7 minutes.

reactant | NaNO2 | 1.0 equivalent | N(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | aluminum | [Al] | Al
reactant | 5-chloroindole | 1.0 equivalent | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | Dioxane | O1CCOCC1 | C4H8O2
product | 5-chloro-1H-indazole-3-carbaldehyde | ClC=1C=C2C(=NNC2=CC1)C=O | C8H5ClN2O
